US07683060B2
Step 3. N-methyl-N-2-[methyl(pyridin-2-yl)amino]ethyl-4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzamide
A mixture of 4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoic acid (10 mg, 0.02 mmol), N-methyl-N-pyridin-2-ylethane-1,2-diamine trifluoroacetate (6.1 mg, 0.037 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (13 mg, 0.029 mmol), and N,N-diisopropylethylamine (13 μL, 0.073 mmol) in methylene chloride (0.5 mL) was stirred at RT for 2 h. The solvent was evaporated. The residue was dissolved in methanol, and purified by RP-HPLC (pH=10) to afford the desired product. Analytical LCMS: (M+H)+=556.2.

reactant | 4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoic acid | 0.02 mmol, 10 mg | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=NN=C2N1N=C(C=N2)C2=CC=C(C(=O)O)C=C2 | C23H16N6O2
reactant | N-methyl-N-pyridin-2-ylethane-1,2-diamine trifluoroacetate | 0.037 mmol, 6.1 mg | FC(C(=O)O)(F)F.CN(CCN)C1=NC=CC=C1
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.029 mmol, 13 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.073 mmol, 13 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | N-methyl-N-2-[methyl(pyridin-2-yl)amino]ethyl-4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzamide | CN(C(C1=CC=C(C=C1)C=1C=NC=2N(N1)C(=NN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)=O)CCN(C2=NC=CC=C2)C | C32H29N9O
